US05753664
2-[4-(6-Chloronicotinoyl)benzylthio]-3-methylthieno[3,2-d]pyrimidin-4(3H)-one
To a solution of 2-mercapto-3-methylthieno[3,2-d]-pyrimidin-4(3H)-one (1.98 g) and 1N-sodium hydroxide/water (10.5 ml) in ethanol (30 ml) was added 4-(6-chloronicotinoyl)benzyl bromide (3.35 g) and the mixture was stirred at 60° C. fro 1 hour. This reaction mixture was poured in water and the resulting crystals were collected by filtration, rinsed with water, and recrystallized from ethyl acetate to provide the title compound as light-yellow solid (3.194 g).

reactant | 2-mercapto-3-methylthieno[3,2-d]-pyrimidin-4(3H)-one | 1.98 g | SC=1N(C(C2=C(N1)C=CS2)=O)C | C7H6N2OS2
reactant | sodium hydroxide water | 10.5 ml | [OH-].[Na+].O
reactant | 4-(6-chloronicotinoyl)benzyl bromide | 3.35 g | ClC1=NC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C13H9BrClNO
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-[4-(6-Chloronicotinoyl)benzylthio]-3-methylthieno[3,2-d]pyrimidin-4(3H)-one | 3.194 g | ClC1=NC=C(C(=O)C2=CC=C(CSC=3N(C(C4=C(N3)C=CS4)=O)C)C=C2)C=C1 | C20H14ClN3O2S2
